US08293763B2
Step 1: 4-cyclobutyl-2-fluoro-nitrobenzene
A solution of trifluoro-methanesulfonic acid 3-fluoro-4-nitro-phenyl ester (1.8 g, 6.2 mmol), cyclobutyl boronic acid (0.78 g, 7.5 mmol), Pd(dppf)Cl2 (0.40 g, 0.5 mmol), and 2M aqueous cesium carbonate (aq) (5 mL, 9.9 mmol) in toluene (10 ml) was degassed with argon for 10 minutes and then heated to 90° C. for 2.5 hours. The reaction mixture was then cooled to room temperature and filtered through hyflo®. The reaction mixture was partitioned between ethyl acetate (70 mL) and water (70 mL). The organic layer was isolated, then washed with brine (50 mL), dried (MgSO4), filtered and concentrated in vacuo. The resultant solid was subjected to flash chromatography (Si-PPC, gradient 0% to 30%, DCM in pentane) to afford the title compound as a yellow liquid (0.504 g, 42%). 1H NMR (DMSO-d6): 8.08 (1H, t, J=8.3 Hz), 7.44 (1H, d, J=13.2 Hz), 7.28 (1H, d, J=8.5 Hz), 3.65 (1H, m), 2.33 (2H, m), 2.13 (2H, m), 1.99 (1H, m), 1.84 (1H, m).

reactant | trifluoro-methanesulfonic acid 3-fluoro-4-nitro-phenyl ester | 6.2 mmol, 1.8 g | FC=1C=C(C=CC1[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C7H3F4NO5S
reactant | cyclobutyl boronic acid | 7.5 mmol, 0.78 g | C1(CCC1)B(O)O | C4H9BO2
reactant | cesium carbonate | 9.9 mmol, 2M, 5 mL | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dppf)Cl2 | 0.5 mmol, 0.40 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-cyclobutyl-2-fluoro-nitrobenzene | 0.504 g, 42% | C1(CCC1)C1=CC(=C(C=C1)[N+](=O)[O-])F | C10H10FNO2
